US06166028
(2-Chloro-4-nitro-phenyl)-methyl-(1-methyl-pyrrolidin-3-yl)-amine
3-Chloro-4-fluoronitrobenzene (1.0 g) and N,N'-dimethyl-3-aminopyrrolidine (1.72 g) are combined and stirred for approximately 24 hours. The mixture is then diluted with ethyl acetate, washed twice with water and once with saturated sodium chloride, and dried over anhydrous sodium sulfate. After removal of the solvent under reduced pressure the residue is chromatographed over silica gel (pure ethyl acetate followed by pure methanol is used as the eluants) to provide the desired product as a yellow oil.

reactant | 3-Chloro-4-fluoronitrobenzene | 1.0 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
reactant | N,N'-dimethyl-3-aminopyrrolidine | 1.72 g | CNC1CCN(C1)C | C6H14N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Chloro-4-nitro-phenyl)-methyl-(1-methyl-pyrrolidin-3-yl)-amine | ClC1=C(C=CC(=C1)[N+](=O)[O-])N(C1CN(CC1)C)C | C12H16ClN3O2
